US07582633B2
Step 4: Ethyl (5-{2-[4-(5-bromo-2-chlorophenoxy)piperidin-1-yl]pyrimidin-5-yl}-2H-tetrazol-2-yl)acetate
To a solution of ethyl {5-[2-(4-hydroxypiperidin-1-yl)pyrimidin-5-yl]-2H-tetrazol-2-yl}acetate (44 mg, 0.132 mmol), 5-bromo-2-chlorophenol (32.9 mg, 0.158 mmol) and triphenylphosphine (45 mg, 0.172 mmol) in THF (660 μL) was added diethyl azodicarboxylate (27.2 μL, 0.172 mmol). The mixture was heated at 50° C. for 4 h. The solvent was evaporated and the crude product was purified by Combiflash chromatography (SiO2-12 g, gradient elution of 10-50% EtOAc/hexanes over 30 min) to afford the title product as a solid. MS: m/z 422, 424 (MH+).

reactant | ethyl {5-[2-(4-hydroxypiperidin-1-yl)pyrimidin-5-yl]-2H-tetrazol-2-yl}acetate | 0.132 mmol, 44 mg | OC1CCN(CC1)C1=NC=C(C=N1)C=1N=NN(N1)CC(=O)OCC | C14H19N7O3
reactant | 5-bromo-2-chlorophenol | 0.158 mmol, 32.9 mg | BrC=1C=CC(=C(C1)O)Cl | C6H4BrClO
reactant | triphenylphosphine | 0.172 mmol, 45 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.172 mmol, 27.2 μL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 660 μL | C1CCOC1 | C4H8O
product | Ethyl (5-{2-[4-(5-bromo-2-chlorophenoxy)piperidin-1-yl]pyrimidin-5-yl}-2H-tetrazol-2-yl)acetate | BrC=1C=CC(=C(OC2CCN(CC2)C2=NC=C(C=N2)C=2N=NN(N2)CC(=O)OCC)C1)Cl | C20H21BrClN7O3
